US08168793B2
3-(3-(3,4-dimethoxy-5-nitrophenyl)-5-hydroxy-4,5-dihydroisoxazol-5-yl)-2-(trifluoromethyl)pyridine 1-oxide (2.14 g, 5 mmol) was heated in 20 mL of ethyl acetate to 70° C. To the resulting slurry was added trifluoroacetic acid (0.74 g, 6.5 mmol) dropwise. After 10 minutes, the reaction was evaporated to dryness and the residue was recrystallised from isopropanol to give 3-(3-(3,4-dimethoxy-5-nitrophenyl)isoxazol-5-yl)-2-(trifluoromethyl)pyridine 1-oxide, 1.27 g (62%).

reactant | 3-(3-(3,4-dimethoxy-5-nitrophenyl)-5-hydroxy-4,5-dihydroisoxazol-5-yl)-2-(trifluoromethyl)pyridine 1-oxide | 5 mmol, 2.14 g | COC=1C=C(C=C(C1OC)[N+](=O)[O-])C1=NOC(C1)(O)C=1C(=[N+](C=CC1)[O-])C(F)(F)F | C17H14F3N3O7
reactant | trifluoroacetic acid | 6.5 mmol, 0.74 g | FC(C(=O)O)(F)F | C2HF3O2
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 3-(3-(3,4-dimethoxy-5-nitrophenyl)isoxazol-5-yl)-2-(trifluoromethyl)pyridine 1-oxide | COC=1C=C(C=C(C1OC)[N+](=O)[O-])C1=NOC(=C1)C=1C(=[N+](C=CC1)[O-])C(F)(F)F | C17H12F3N3O6
